US05576322
4-(α-Hydroxymethyl-3,4-methylenedioxybenzyl)amino-6-chloroquinazoline
10 ml of ethanol and 197 mg of sodium borohydride were added to 200 mg of 4-(α-ethoxycarbonyl-3,4-methylenedioxybenzyl)amino-6-chloroquinazoline. The obtained mixture was refluxed for 30 minutes, followed by the addition of 5 ml of water. The obtained mixture was concentrated under a reduced pressure, followed by the addition of 10 ml of water. The crystal thus precipitated was recovered by filtration. Thus, 30 mg of the title compound was obtained.

reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium borohydride | 197 mg | [BH4-].[Na+]
reactant | 4-(α-ethoxycarbonyl-3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 200 mg | C(C)OC(=O)C(C1=CC2=C(C=C1)OCO2)NC2=NC=NC1=CC=C(C=C21)Cl | C19H16ClN3O4
solvent | water | 5 ml | O | H2O
product | 4-(α-Hydroxymethyl-3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 30 mg, yield(%); 17 | OCC(C1=CC2=C(C=C1)OCO2)NC2=NC=NC1=CC=C(C=C21)Cl | C17H14ClN3O3
